US08314138B2
Part C. To a solution of 2-(6-{[2-(4-fluoro-phenoxy)-ethyl]-methyl-amino}-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid ethyl ester (220 mg, 0.53 mmol) in tetrahydrofuran (8 mL) was added 1N NaOH (8 mL). The resulting reaction mixture was heated to reflux for 14 hr. The solvent was removed in vacuo, and the residue was neutralized to pH 4-5 with 10% HCl. The resulting precipitate was filtered and dried to afford 2-(6-{[2-(4-fluoro-phenoxy)-ethyl]-methyl-amino}-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid in 92% yield.

reactant | 2-(6-{[2-(4-fluoro-phenoxy)-ethyl]-methyl-amino}-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid ethyl ester | 0.53 mmol, 220 mg | C(C)OC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)N(C)CCOC1=CC=C(C=C1)F)C | C20H21FN4O3S
reactant | NaOH | 1N, 8 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 2-(6-{[2-(4-fluoro-phenoxy)-ethyl]-methyl-amino}-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid | 92% yield | FC1=CC=C(OCCN(C2=CN=CC(=N2)C=2SC(=C(N2)C)C(=O)O)C)C=C1 | C18H17FN4O3S
